US08039460B2
Step A: 1-Ethoxy-4,4,4-trifluoro-1-oxobutan-2-aminium chloride
2-Amino-4,4,4-trifluorobutanoic acid (11.7 g, 52.8 mmol) was added to a saturated solution of HCl in ethanol (100 mL) and heated to 85° C. After 4 h, the mixture was allowed to cool to ambient temperature and concentrated. MS 186.0 (M+1).

reactant | 2-Amino-4,4,4-trifluorobutanoic acid | 52.8 mmol, 11.7 g | NC(C(=O)O)CC(F)(F)F | C4H6F3NO2
reactant | HCl | Cl | ClH
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | 1-Ethoxy-4,4,4-trifluoro-1-oxobutan-2-aminium chloride | [Cl-].C(C)OC(C(CC(F)(F)F)[NH3+])=O | InChI=1S/C6H10F3NO2.ClH/c1-2-12-5(11)4(10)3-6(7,8)9;/h4H,2-3,10H2,1H3;1H
